US07947675B2
To a solution of ethyl 2-chloro-3-nitro-5-trifluoromethylbenzoate (4.2 g; 1 eq.) in dioxane (40 ml) is added piperidine (3.9 ml; 2.1 eq.). After stirring for 18 hours at room temperature, the medium is poured into water (50 ml) and the product is extracted with ethyl ether. The organic phase is washed with water, dried and concentrated. 4.9 g of ethyl 3-nitro-2-piperid-1-yl-5-trifluoromethylbenzoate are obtained in the form of a colourless oil.

reactant | ethyl 2-chloro-3-nitro-5-trifluoromethylbenzoate | 4.2 g, 1 eq. | ClC1=C(C(=O)OCC)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C10H7ClF3NO4
reactant | piperidine | 3.9 ml, 2.1 eq. | N1CCCCC1 | C5H11N
reactant | water | 50 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-nitro-2-piperid-1-yl-5-trifluoromethylbenzoate | 4.9 g | [N+](=O)([O-])C=1C(=C(C(=O)OCC)C=C(C1)C(F)(F)F)N1CCCCC1 | C15H17F3N2O4
